US09340546B2
Step 1: 2-bromo-5-fluoro-4-((1-methylpiperidin-4-yl)oxy)-3-nitropyridine
NaH (86.67 mg, 2.167 mmol) was added portionwise to a solution of 1-methylpiperidin-4-ol (192.0 mg, 1.667 mmol) in THF (5.000 mL) at 0° C. and the resulting solution stirred for 15 min and then 2,4-dibromo-5-fluoro-3-nitro-pyridine (500 mg, 1.667 mmol) in THF (5.000 mL) was added and the reaction mixture stirred at RT overnight. The reaction mixture was partitioned between water (10 mL) and ethyl acetate (10 mL). Combined organic extracts was dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatograph on silica eluting with ethyl acetate/petroleum ether (24 g column, 0-100% EtOAc) using the ISCO column companion system. Product fractions were combined and concentrated in vacuo to leave the product as a yellow oil that solidified on standing. (125 mg). MS (ES+) 334.0 336.0.

reactant | NaH | 2.167 mmol, 86.67 mg | [H-].[Na+]
reactant | 1-methylpiperidin-4-ol | 1.667 mmol, 192.0 mg | CN1CCC(CC1)O | C6H13NO
reactant | 2,4-dibromo-5-fluoro-3-nitro-pyridine | 1.667 mmol, 500 mg | BrC1=NC=C(C(=C1[N+](=O)[O-])Br)F | C5HBr2FN2O2
solvent | THF | 5.000 mL | C1CCOC1 | C4H8O
solvent | THF | 5.000 mL | C1CCOC1 | C4H8O
product | 2-bromo-5-fluoro-4-((1-methylpiperidin-4-yl)oxy)-3-nitropyridine | BrC1=NC=C(C(=C1[N+](=O)[O-])OC1CCN(CC1)C)F | C11H13BrFN3O3
